* OPAMP

.subckt onepole p m out params: Rind=1e7, halfRinCm=1e9, Rout=75, TransC=0.1e-3, R1=1.6e6, C1=10p
 Rind p m {Rind}
 RinCm1 p 0 {halfRinCm}
 RinCm2 m 0 {halfRinCm}              ; input resistances

 Gmint1 int1 0 p m {TransC}
 R1 int1 0 {R1}
 C1 int1 0 {C1}                      ; internal value

 Eout out1 0 value={v(int1,0)}       ; open-loop voltage gain
 Rout out1 out {Rout}                ; open-loop voltage gain ; output resistance
 .ends onepole
